US06685995B1
To 50 ml of carbon tetrachloride were added 3.9 g (18 mmol) of 4-(4-propylcyclohexyl)cyclohexanone and 3.8 g (19 mmol) of 2,6-di-t-butyl-4-methylpyridine, and the mixture was stirred at room temperature. To this mixture was added dropwise 2 ml of solution of 4.5 g (18 mmol) of trifluoroacetyltriflate in carbon tetrachloride. Subsequently, 25 ml of carbon tetrachloride was added thereto and the mixture was stirred at room temperature for 1 hour. The reaction solution was filtered off and then the filtrate was concentrated under a reduced pressure. After the residue was purified by column chromatography on silica gel (eluent: heptane/toluene=3/1), the solvent was distilled off, and the residue was subjected twice to recrystallization by using heptane to give 1.3 g (4.1 mmol) of trifluoroacetic acid 4-(4-propylcyclohexyl)-1-cyclohexenyl ester. Yield of this compound based on 4-(4-propylcyclohexyl)cyclohexanone was 23%.

reactant | 4-(4-propylcyclohexyl)cyclohexanone | 18 mmol, 3.9 g | C(CC)C1CCC(CC1)C1CCC(CC1)=O | C15H26O
reactant | 2,6-di-t-butyl-4-methylpyridine | 19 mmol, 3.8 g | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
reactant | trifluoroacetyltriflate | 18 mmol, 4.5 g | FC(C(=O)OS(=O)(=O)C(F)(F)F)(F)F | C3F6O4S
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | trifluoroacetic acid 4-(4-propylcyclohexyl)-1-cyclohexenyl ester | 4.1 mmol, 1.3 g | C(CC)C1CCC(CC1)C1CC=C(CC1)OC(C(F)(F)F)=O | C17H25F3O2
